US04259337
2.2 g of silver oxide were added to a mixture of 4.6 g of 3-(m-trifluoromethylphenyl)-piperidine and 22 ml of acetone and the mixture was cooled on an ice water bath while 2.55 ml (≃3.6 g) of benzyl bromide was added dropwise over 10 minutes at a temperature less than 10° C. The mixture was stirred at 0° C. for one hour and was filtered. The filtrate was evaporated to dryness under reduced presssure to obtain 7 g of raw product which was chromatographed over silica gel. Elution with an 85-10-5 cyclohexane-chloroformtriethylamine mixture and evaporation to dryness under reduced pressure yielded 4.99 g of N-benzyl-3-(m-trifluoromethylphenyl)-piperidine.

reactant | 3-(m-trifluoromethylphenyl)-piperidine | 4.6 g | FC(C=1C=C(C=CC1)C1CNCCC1)(F)F | C12H14F3N
reactant | benzyl bromide | 2.55 ml, 3.6 g | C(C1=CC=CC=C1)Br | C7H7Br
catalyst | silver oxide | 2.2 g | [Ag]=O
solvent | acetone | 22 ml | CC(=O)C | C3H6O
product | N-benzyl-3-(m-trifluoromethylphenyl)-piperidine | 4.99 g | C(C1=CC=CC=C1)N1CC(CCC1)C1=CC(=CC=C1)C(F)(F)F | C19H20F3N
